US07560551B2
Synthesis of 4-(2-(4-aminophenoxy)pyridin-3-yl)pyrimidin-2-amine
To a resealable tube was added 4-aminophenol (1.3 g, 12 mmol), cesium carbonate (7.8 g, 24 mmol), and DMSO (16 ml, 0.75 M). The mixture was heated to 100° C. for 5 minutes, and then 4-(2-chloropyridin-3-yl)pyrimidin-2-amine (2.5 g, 12 mmol) was added, and the reaction mixture was heated to 130° C. overnight. Upon completion, as judged by LCMS, the reaction mixture was allowed to cool to RT and diluted with water. The resulting precipitate was filtered, and the solid washed with water and diethyl ether. The solid was then taken up in 9:1 CH2Cl2:MeOH and passed through a pad of silica gel with 9:1 CH2Cl2:MeOH as eluent. The solvent was concentrated in vacuo to provide the desired product, 4-(2-(4-aminophenoxy)pyridin-3-yl)pyrimidin-2-amine. MS m/z=280 [M+1]+. Calc'd for C15H13N5O: 279.30.

reactant | 4-aminophenol | 12 mmol, 1.3 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cesium carbonate | 24 mmol, 7.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 0.75 M, 16 ml | CS(=O)C | C2H6OS
reactant | 4-(2-chloropyridin-3-yl)pyrimidin-2-amine | 12 mmol, 2.5 g | ClC1=NC=CC=C1C1=NC(=NC=C1)N | C9H7ClN4
solvent | water | O | H2O
product | 4-(2-(4-aminophenoxy)pyridin-3-yl)pyrimidin-2-amine | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)N)C=C1 | C15H13N5O
